US04126687
A mixture of 8 parts of 5,6-dichloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate, 9.2 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one and 90 parts of N,N-dimethylformamide is stirred and heated at 60° C. for one hour. The reaction mixture is evaporated and water is added to the residue. The whole is alkalized with ammonium hydroxide and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is triturated in 4-methyl-2-pentanone. The product is filtered off and dried, yielding 2 parts of 8-[3-(5,6-dichloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 275.2° C.

reactant | 5,6-dichloro-1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate | CS(=O)(=O)O.ClC1=CC2=C(N(C(N2)=O)CCCO)C=C1Cl
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[3-(5,6-dichloro-1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | ClC1=CC2=C(N(C(N2)=O)CCCN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C1Cl | C23H25Cl2N5O2
